US07935835B2
(10a) 4-Cyclopropyl-4-oxobutanal
230 mg (1.79 mmol) of 1-cyclopropyl-4-hydroxy-1-butanone was dissolved in 7 ml of dichloromethane, and 580 mg (2.69 mmol) of pyridinium chlorochromate was added thereto, followed by stirring for 1 hour at room temperature. To the reaction solution was added diethyl ether, the mixture was filtered using Celite, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (solvent; diethyl ether alone) to give 176 mg of the title compound as a pale yellow oil (yield: 78%).

reactant | 1-cyclopropyl-4-hydroxy-1-butanone | 1.79 mmol, 230 mg | C1(CC1)C(CCCO)=O | C7H12O2
reactant | pyridinium chlorochromate | 2.69 mmol, 580 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-Cyclopropyl-4-oxobutanal | 176 mg, yield: 78% | C1(CC1)C(CCC=O)=O | C7H10O2
